US04855286
(d) Boc-2-Cyclohexyl-1(S)-oxiran-2(R,S)-ylethylamine
2.6 g of Boc-1(S)-cyclohexylmethylprop-2-en-1-ylamine are dissolved in 50 ml of CH2Cl2, and 1.9 g of m-chloroperbenzoic acid in 50 ml of CH2Cl2 are added dropwise at 0° C. The reaction solution is stirred at R.T. for 36 h and is then extracted first with 100 ml of 5% strength aqueous Na2SO3 solution and then with 100 ml of saturated aqueous Na2CO3 solution. Drying over Na2SO4 and concentration in vacuo are followed by chromatography on silica gel (mobile phase MTB/cyclohexane 1:1) resulting in the title compound as a colorless oil, diastereomer ratio 3:1 to 5:1.

reactant | Boc-1(S)-cyclohexylmethylprop-2-en-1-ylamine | 2.6 g | C(=O)(OC(C)(C)C)N[C@H](C=C)CC1CCCCC1 | C15H27NO2
reactant | m-chloroperbenzoic acid | 1.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Boc-2-Cyclohexyl-1(S)-oxiran-2(R,S)-ylethylamine | C(=O)(OC(C)(C)C)N[C@@H](CC1CCCCC1)C1OC1 | C15H27NO3
